Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Lumbar radiculopathy
 
Major Surgical or Invasive Procedure:
___: elective revision/re-exploration of L1-2 laminectomy 
with replacement of screws for T11-L3 fusion 

 
History of Present Illness:
___ year old female now 7 months s/p lumbar decompression and 
fusion for L1
burst fracure. She has had chronic back pain since ___, which 
is worse since
the injury in ___. Recurrent pain treatments with pain 
management were
not useful. 
The patient returned to clinic, as she has had persistent pain. 
A lumbar spine CT from ___ demonstrated increased lucency 
surrounding some of the screws, which may be aggravating her 
pain. She was therefore offered a second surgery for further 
fusion of the spine (2 levels above and below current levels of 
fusion), as this may alleviate some of her pain. 
She was admitted ___ to undergo the procedure electively. 

 
Past Medical History:
HTN
Depression
High Cholesterol
Chronic back pain
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission:
PHYSICAL EXAM:
Vital Signs sheet entries for ___: 
BP: 124/64. Heart Rate: 64. 
Gen: WD/WN, comfortable, NAD.
HEENT: Head normocephalic, sclerae anicteric
Neck: Supple.
Lungs: No shortness of breath noted
Cardiac: RRR. .
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, bilaterally.
Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor:  Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. No
pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger, rapid alternating
movements

On Discharge:
Mental Status: Awake, alert and oriented to person, place and 
time.  Participates in exam and provides appropriate history.  
Speech is clear and fluent without dysarthria or paraphasic 
errors.
Pupils equal, round and reactive to light bilaterally. EOMI.
Moves all extremities pain limited ___ to right IP, otherwise 
full strength ___ throughout. Baseline paresthesias to plantar 
aspect of bilateral feet, otherwise intact to light touch. 
Proprioception intact. No clonus.

 
Pertinent Results:
___ L-Spine AP & LAT
There has been posterior spinal fusion.  The superior extent of 
the hardware is not included on the field of view.  However 
there is fusion hardware extending down to L4.  No pedicle 
screws are seen in L1 where there is a severe compression 
deformity with loss of approximately 75% of the vertebral body 
height. There is air seen throughout nondilated loops of small 
bowel and colon. 

___ L-Spine AP & LAT
Intraoperative images demonstrate instrumentation of the lumbar 
spine with 
transpedicular screws noted.  For details of the procedure 
please consult the procedure report. 

___ CT T-Spine
1. Re-identified is perihardware lucency of the right T12 
pedicle screw 
measuring up to 3 mm in thickness. 
2. There is increased perihardware lucency of the right L3 
pedicle screw 
measuring up to 3 mm in thickness.  Perihardware lucency of the 
left L3 
pedicle screw measuring up to 2 mm in thickness is similar in 
appearance to prior exam. 
3. No evidence of hardware fracture. 
4. Unchanged L1 burst fracture with 6 mm retropulsion of the 
superior endplate and greater than 50% loss of vertebral body 
height. 

___ CT L-Spine
1. Re-identified is perihardware lucency of the right T12 
pedicle screw 
measuring up to 3 mm in thickness. 
2. There is increased perihardware lucency of the right L3 
pedicle screw 
measuring up to 3 mm in thickness.  Perihardware lucency of the 
left L3 
pedicle screw measuring up to 2 mm in thickness is similar in 
appearance to prior exam. 
3. No evidence of hardware fracture. 
4. Unchanged L1 burst fracture with 6 mm retropulsion of the 
superior endplate and greater than 50% loss of vertebral body 
height. 

___ 06:20AM BLOOD WBC-9.1 RBC-3.03* Hgb-10.8*# Hct-33.5* 
MCV-111* MCH-35.6* MCHC-32.2 RDW-14.5 RDWSD-59.2* Plt ___
___ 09:20AM BLOOD ___ PTT-31.0 ___
___ 06:20AM BLOOD Glucose-101* UreaN-10 Creat-0.6 Na-138 
K-3.7 Cl-102 HCO3-28 AnGap-12
 
Brief Hospital Course:
On ___, the patient was admitted for elective 
revision/re-exploration of L1-2 laminectomy with replacement of 
screws for T11-L3 fusion. 

On ___, the patient remained hemodynamically and 
neurologically stable. Her pain medications were adjusted, and 
the patient worked with physical therapy. A thoracic-lumbar 
brace was ordered, and the patient had AP-lateral lumbar xrays 
done when the brace was in place. Foley catheter was removed.

On ___, the patient remained hemodynamically and 
neurologically stable.  She received her TLSO brace and was 
evaluated  by physical therapy, who recommended rehab.  

On ___, the patient was noted to have a moderate amount of 
serosanguinous drainage on the dressing around her hemovac.  The 
dressing was reinforced.  She otherwise remained stable.

On ___, the patient continued to remain hemodynamically and 
neurologically stable.  Her hemovac was removed.  She continued 
to wear the TLSO brace while out of bed and was ambulating with 
assistance.  Oxycodone was increased for pain control. She was 
screened for rehab.

On ___, the patient remained neurologically and hemodynamically 
stable.  She was evaluated by chronic pain service to optimize 
her pain management regimen.  She was approved for a rehab bed 
and discharged in stable condition.

 
Medications on Admission:
clonazepam 1 mg TID
cyclobenzaprine 10 mg TID
duloxetine 60 mg qHS
Cymbalta 30 mg qAM
Lasix 20 mg daily
Neurontin 800 mgTID
losartan 50 mg daily
Singulair 10 mg daily
oxycodone 10 mg tabs ___ tab q4-6h prn pain)
Crestor 5 mg daily
trazodone 200 mg qHS

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever/pain 
2. ClonazePAM 1 mg PO TID 
3. Cyclobenzaprine 10 mg PO TID 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth Three times daily 
Disp #*90 Tablet Refills:*0
4. Duloxetine 30 mg PO QAM 
5. Duloxetine 60 mg PO QPM 
6. Furosemide 20 mg PO DAILY 
7. Gabapentin 800 mg PO TID 
8. Heparin 5000 UNIT SC BID 
9. Losartan Potassium 50 mg PO DAILY 
10. Montelukast 10 mg PO DAILY 
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 3 tablet(s) by mouth Every 4 hours as needed 
for pain Disp #*60 Tablet Refills:*0
12. Rosuvastatin Calcium 5 mg PO QPM 
13. TraZODone 200 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Lumbar radiculopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Spinal Fusion

Surgery
 Your incision is closed with staples and sutures. You will 
need suture/staple removal. 
 Do not apply any lotions or creams to the site. 
 Please keep your incision dry until removal of your 
sutures/staples.
 Please avoid swimming for two weeks after suture/staple 
removal.
 Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
 You must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
 You must wear your brace while showering. 
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
 No driving while taking any narcotic or sedating medication. 
 No contact sports until cleared by your neurosurgeon. 
 Do NOT smoke. Smoking can affect your healing and fusion.

Medications
 Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
 Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc until cleared by your 
neurosurgeon.
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
 It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
 Severe pain, swelling, redness or drainage from the incision 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___